US08460862B2
4-Amino-3-hydroxybenzoic acid, ethyl ester, hydrochloride salt
To a dry 100 mL round-bottom flask was added absolute ethanol (50 mL) and the solution cooled to 0° C. (ice-bath) under dry N2(g). Acetyl chloride (5.0 mL) was added slowly with stirring and this solution allowed to stir under anhydrous conditions for 2 hours to prepare anhydrous 1.40 M HCl in ethanol. To this solution was added 4-amino-3-hydroxybenzoic acid (2.50 g, 16.32 mmole) and the mixture allowed to stir as above at room temperature overnight. TLC (irrigant=7:1:1:1 ethylacetate:methanol:water:acetic acid, Rf=0.85) indicated complete conversion to the ethyl ester. Yield 3.5 g (99%).

reactant | Acetyl chloride | 5.0 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1.40 M | Cl | ClH
reactant | 4-amino-3-hydroxybenzoic acid | 16.32 mmole, 2.50 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-Amino-3-hydroxybenzoic acid, ethyl ester, hydrochloride salt | Cl.NC1=C(C=C(C(=O)OCC)C=C1)O | InChI=1S/C9H11NO3.ClH/c1-2-13-9(12)6-3-4-7(10)8(11)5-6;/h3-5,11H,2,10H2,1H3;1H
